US05438052
Methyl 2-(acetoxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-5-carboxylate (80 mg) (0.28 mmol) are dissolved in 3 ml of absolute methanol. 188 mg (5.7 mmol) of hydroxylamine are added within 4 days while stirring. The product is precipitated (pH 6) with 3N aqueous hydrochloric acid, filtered off under suction and washed with methanol. After crystallization from methanol there are obtained 50 mg of N-hydroxy-2-(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-5-carboxamide as a yellow powder.

reactant | Methyl 2-(acetoxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 0.28 mmol, 80 mg | C(C)(=O)OCC1=NN2C(N=C(C=C2S)C(=O)OC)=N1 | C10H10N4O4S
reactant | hydroxylamine | 5.7 mmol, 188 mg | NO | H3NO
solvent | methanol | 3 ml | CO | CH4O
product | N-hydroxy-2-(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-5-carboxamide | 50 mg | ONC(=O)C1=NC=2N(C(=C1)S)N=C(N2)CO | C7H7N5O3S
